US06518423B1
4-[9-(10H-Pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)purin-6-yl]-2-methyl-3-butyn-2-ol
8-(6-Iodopurin-9-ylmethyl)-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine was treated by the same method as the one of Example 9 to thereby give 8-(6-iodopurin-9-ylmethyl)-10H-pyrazino[2,3-b][1,4]benzothiazine. Next, this product was treated with 2-methyl-3-butyn-2-ol by the same method as the one of Example 1417 to thereby give the title compound.

reactant | 8-(6-Iodopurin-9-ylmethyl)-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | IC1=C2N=CN(C2=NC=N1)CC=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C18H14IN7OS
reactant | 8-(6-iodopurin-9-ylmethyl)-10H-pyrazino[2,3-b][1,4]benzothiazine | IC1=C2N=CN(C2=NC=N1)CC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | C16H10IN7S
reactant | 2-methyl-3-butyn-2-ol | CC(C)(C#C)O | C5H8O
product | 4-[9-(10H-Pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)purin-6-yl]-2-methyl-3-butyn-2-ol | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CN3C2=NC=NC(=C2N=C3)C#CC(C)(O)C | C21H17N7OS
